* CONDUCTION NMOS W *
**********************

.INCLUDE ../45nm_MGK.pm
.OPTIONS GMIN=1e-020 ABSTOL=1e-18

* Defining parameters
.PARAM Lmin=45n
.PARAM Wmin={W}
.PARAM Ldiff=90n
	
* Description of the transistor
Mn drain gate source body nmos W={Wmin} L={Lmin} AS={Wmin*Ldiff} AD={Wmin*Ldiff} PS={2*(Ldiff+Wmin)} PD={2*(Ldiff+Wmin)}

Vd 	drain	0		0
Vg 	gate	0	    0
Vs 	source	alim	0
Vb 	body	0		0
Vdd alim	0		0

.dc TEMP 25 90 75 Vdd 0 1.1 0.05 

* Analysis Parameters
.CONTROL
  run
    set wr_vecnames
    set wr_singlescale
    print abs(V(alim)) V(drain) V(gate) V(source) V(body) I(Vd) I(Vg) I(Vs) I(Vb)
    wrdata output_W_{W}.txt abs(V(alim)) V(drain) V(gate) V(source) V(body) I(Vd) I(Vg) I(Vs) I(Vb)
.ENDC

.END